US07834063B2
4-[{2-[(4-Fluorophenyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-3-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-3-(trifluoromethyl)benzonitrile and 4-fluorophenol: MS (APCI) m/z 407 (M+1).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-3-(trifluoromethyl)benzonitrile | OCCN(C1=C(C=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | 4-[{2-[(4-Fluorophenyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-3-(trifluoromethyl)benzonitrile | FC1=CC=C(C=C1)OCCN(C1=C(C=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C18H13F7N2O
